US07459454B2
3-Bromophenol (20.4 g, 118 mmol) dissolved in dry N,N-dimethylformamide was carefully treated with sodium hydride (4 g, 167 mmol). t-Butylbromoacetate (23 g, 118 mmol) was added and the mixture heated to 75° C. for 90 minutes. The reaction was concentrated in vacuo and the residue partitioned between ethyl acetate and water. The organic phase was washed with saturated ammonium acetate and concentrated in vacuo to yield 28.9 g of tert-butyl(3-bromophenoxy)acetate.

reactant | 3-Bromophenol | 118 mmol, 20.4 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | sodium hydride | 167 mmol, 4 g | [H-].[Na+]
reactant | t-Butylbromoacetate | 118 mmol, 23 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | tert-butyl(3-bromophenoxy)acetate | 28.9 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)Br)=O | C12H15BrO3
